US07763638B2
3. Synthesis of {(1S)-6,7-dimethoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-phenyl-acetic acid methyl ester
This compound is prepared by reaction of (1S)-6,7-dimethoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-1,2,3,4-tetrahydroisoquinoline with α-bromo-phenyl-acetic acid methyl ester.

reactant | (1S)-6,7-dimethoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCN[C@H](C2=CC1OC)CCC1=CC=C(C=C1)C(F)(F)F | C20H22F3NO2
reactant | α-bromo-phenyl-acetic acid methyl ester | COC(C(Br)C1=CC=CC=C1)=O | C9H9BrO2
product | {(1S)-6,7-dimethoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-phenyl-acetic acid methyl ester | COC(C(C1=CC=CC=C1)N1[C@H](C2=CC(=C(C=C2CC1)OC)OC)CCC1=CC=C(C=C1)C(F)(F)F)=O | C29H30F3NO4
